US05831094
4(L-VALYL)AMINO-2,2-DIFLUORO-3-HYDROXY-5[4(2-{N-MORPHOLINYL}ETHYLOXY)PHENYL]N-BENZYL PENTANAMIDE
A solution of 4(N-tert-butoxycarbonyl-L-valyl)amino-2,2-difluoro-3-hydroxy-5[4(2-{N-MORPHOLINYL}ETHYLOXY)PHENYL]N-benzyl pentanamide (0.19 g, 0.28 mmol) in formic acid (15 ml) was stirred at room temperature for 4 hours. After evaporation of the solvent in vacuo, the residue was diluted with ethyl acetate (50 ml) and washed three times with a saturated solution of sodium carbonate (3×10 ml) and brine (10 ml). The organic layer was dried over magnesium sulphate.

reactant | 4(N-tert-butoxycarbonyl-L-valyl)amino-2,2-difluoro-3-hydroxy-5[4(2-{N-MORPHOLINYL}ETHYLOXY)PHENYL]N-benzyl pentanamide | 0.28 mmol, 0.19 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)C(=O)NC(C(C(C(=O)NCC1=CC=CC=C1)(F)F)O)CC1=CC=C(C=C1)OCCN1CCOCC1 | C34H48F2N4O7
solvent | formic acid | 15 ml | C(=O)O | CH2O2
product | 4(L-VALYL)AMINO-2,2-DIFLUORO-3-HYDROXY-5[4(2-{N-MORPHOLINYL}ETHYLOXY)PHENYL]N-BENZYL PENTANAMIDE | N[C@@H](C(C)C)C(=O)NC(C(C(C(=O)NCC1=CC=CC=C1)(F)F)O)CC1=CC=C(C=C1)OCCN1CCOCC1 | C29H40F2N4O5
